US07268138B2
To a solution of dibenzylphosphite (2.6 mmol) in 10 mL of THF was added ethyl acrylate (3.0 mmol), K2CO3 (16 mmol), and 0.3 mL of (Bn4NH)2SO4 50% w/w. The reaction mixture was stirred at 45° C. overnight. Water was added. The aqueous layer was extracted with ethyl acetate. Organic layer was collected and dried with MgSO4. Solvent was removed to afford a clear oil 3-bis(benzyloxy)phosphorylpropanoic acid in 90% yield. 1H-NMR (CDCl3, 400 MHz): 7.33 (m, 10H), 4.90-5.10 (m, 4H), 3.61 (s, 3H), 2.50-2.60 (m, 2H), 2.00-2.15 (m, 2H).

reactant | dibenzylphosphite | 2.6 mmol | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)[O-]
reactant | ethyl acrylate | 3.0 mmol | C(C=C)(=O)OCC | C5H8O2
reactant | K2CO3 | 16 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-bis(benzyloxy)phosphorylpropanoic acid | 90% yield | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)CCC(=O)O | C17H19O5P
